US06204279B1
(E) (1R)-1-[(RS)-(5-tert-Butyl-2-benzoxazolyl)hydroxymethl]-3-phenylpropylamine
A mixture of N-CBz-(1R)-1-[(RS)-(5-tert-butyl-2-benzoxazolyl)hydroxymethyl]-3-phenylpropylamine (360 mg), anhydrous methanol (8 ml), and 10% palladium-on-charcoal (40 mg) was degassed, under reduced pressure, and then stirred vigorously under hydrogen atmosphere for 10 h. The mixture is filtered on a nylon pad (0.45 pm porosity) and concentrated in vacuo to afford the title product (210 mg) as a clear oil: 1H NMR (400 MHz, CDCl3, 3:2 mixture of diastereomers) δ1.80-2.02 (m, 2H), 2.65-2.89 (m, 2H), 3.23 (m, 0.4H), 3.39 (m, 0.6H), 4.76 (d, J=1.8 Hz, 0.6H), 4.84 (d, J=2.4 Hz, 0.4H), 7.09 (m, 3H), 7.29 (m, 2H), 7.43 (m, 2H), and 7.76 (s, 1H).

reactant | N-CBz-(1R)-1-[(RS)-(5-tert-butyl-2-benzoxazolyl)hydroxymethyl]-3-phenylpropylamine | 360 mg | C(=O)(OCC1=CC=CC=C1)N[C@H](CCC1=CC=CC=C1)C(O)C=1OC2=C(N1)C=C(C=C2)C(C)(C)C | C29H32N2O4
catalyst | palladium-on-charcoal | 40 mg | [Pd] | Pd
solvent | methanol | 8 ml | CO | CH4O
product | (1R)-1-[(RS)-(5-tert-Butyl-2-benzoxazolyl)hydroxymethl]-3-phenylpropylamine | 210 mg | C(C)(C)(C)C=1C=CC2=C(N=C(O2)C([C@@H](CCC2=CC=CC=C2)N)O)C1 | C21H26N2O2
